US04122255
C. N-[[2-[2-(4Morpholinyl)ethoxy]phenyl]methyl]benzeneethanamine
N-[[2-[2-(4-Morpholinyl)ethoxy]phenyl]methylene]benzeneethanamine (68.5 g) is reduced with 22.5 g of sodium borohydride in 350 ml of methanol following the procedure described in Example 1B to yield 54 g of product as an oil, boiling point 216°-220° C at 0.2-0.3 mm of Hg.

reactant | N-[[2-[2-(4-Morpholinyl)ethoxy]phenyl]methylene]benzeneethanamine | 68.5 g | N1(CCOCC1)CCOC1=C(C=CC=C1)C=NCCC1=CC=CC=C1 | C21H26N2O2
reactant | sodium borohydride | 22.5 g | [BH4-].[Na+]
solvent | methanol | 350 ml | CO | CH4O
product | N-[[2-[2-(4Morpholinyl)ethoxy]phenyl]methyl]benzeneethanamine | 54 g | N1(CCOCC1)CCOC1=C(C=CC=C1)CNCCC1=CC=CC=C1 | C21H28N2O2
